US08530486B2
2-phthalimidoethane-N-(4-iodophenyl)sulfonamide
Prepared according to general method A from 2-phthalimidoethanesulfonyl chloride (1.50 g) and 4-iodoaniline (2.70 g). Yield: 1.56 g (56%). 1H-NMR (CDCl3) δ (ppm) 10.14 (s, 1H), 7.83 (s, 4H), 7.63 (d, J=8.7 Hz, 2H), 7.00 (d, J=8.8 Hz, 2H), 3.94 (t, J=7.1 Hz, 2H), 3.94-3.44 (m, 2H).

reactant | 2-phthalimidoethanesulfonyl chloride | 1.50 g | C1(C=2C(C(N1CCS(=O)(=O)Cl)=O)=CC=CC2)=O | C10H8ClNO4S
reactant | 4-iodoaniline | 2.70 g | IC1=CC=C(N)C=C1 | C6H6IN
product | 2-phthalimidoethane N-(4-iodophenyl)sulfonamide | C1(C=2C(C(N1CC)=O)=CC=CC2)=O.IC1=CC=C(C=C1)NS(=O)=O | InChI=1S/C10H9NO2.C6H6INO2S/c1-2-11-9(12)7-5-3-4-6-8(7)10(11)13;7-5-1-3-6(4-2-5)8-11(9)10/h3-6H,2H2,1H3;1-4,11H,(H,8,9,10)
